US06455708B1
N-ethyl-2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran-4-carbothioamide
An amount (103 mg) of 4-bromo-2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran was dissolved in diethyl ether (0.3 ml); to the solution, 1.68 M n-butyllithium (0.18 ml) was added at 0° C. under a nitrogen atmosphere. After stirring the reaction mixture for 2 minutes, a diethyl ether solution (0.3 ml) of ethyl isothiocyanate (34 mg) was added and the mixture was stirred for 2.5 hours at 0° C. The reaction mixture was diluted with diethyl ether, washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride, dried with anhydrous sodium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluent; hexane/ethyl acetate=4/1) to give the titled compound (60 mg) as a pale yellow crystal.

reactant | 4-bromo-2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran | 103 mg | BrC1=CC(OC2=C1C=C(C=C2)C(F)(F)F)(CF)CF | C12H8BrF5O
reactant | n-butyllithium | 1.68 M, 0.18 ml | C(CCC)[Li]
reactant | ethyl isothiocyanate | 34 mg | C(C)N=C=S | C3H5NS
solvent | diethyl ether | 0.3 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 0.3 ml | C(C)OCC | C4H10O
product | N-ethyl-2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran-4-carbothioamide | 60 mg | C(C)NC(=S)C1=CC(OC2=C1C=C(C=C2)C(F)(F)F)(CF)CF | C15H14F5NOS
